US06147216
Mix 2-ethyl-1-hexanol (6.5 g, 5 mol), triethylamine (50.5 g, 0.5 mol) and methylene chloride (50 mL). Add, by dropwise addition, 2-phenylacetyl chloride (5 mol) and warm to 50° C. Stir at room temperature overnight, filter and wash the filtercake with methylene chloride (50 mL). Combine the organic phases and wash with 5% aqueous hydrochloric acid (50 mL) and water. Dry (MgSO4), evaporate the solvent in vacuo and purify by distillation to give 2-phenylacetic acid, 2-(2-ethylhexyl ester.

reactant | 2-ethyl-1-hexanol | 5 mol, 6.5 g | C(C)C(CO)CCCC | C8H18O
reactant | triethylamine | 0.5 mol, 50.5 g | C(C)N(CC)CC | C6H15N
reactant | 2-phenylacetyl chloride | 5 mol | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
